US07429665B2
4-(4-(4-(Benzyloxy)phenyl)oxazol-5-yl)pyridine
A mixture of 1-((4-(Benzyloxy)phenyl)isocyanomethylsulfonyl)4-methylbenzene (4.3 g, 11.4 mmol), isonicotinaldehyde (1.34 g, 12.5 mmol) and K2CO3 (3.15 g, 22.8 mmol) in methanol (96 mL ) and DME (30 mL) was heated at reflux for 5 h. After removal of solvent, the residue was purified by silica gel chromatography (2:1 hexane/EtOAc) to provide 2.29 g (84%) of a white solid. 1H NMR (400 MHz, CDCl3) δ: 5.12v (s, 2H), 7.03 (d, 2H), 7.46 (m, 6H), 7.56 (d, 2H), 7.61 (d, 2H), 8.02 (s, 1H), 8.58 (d, 2H). MS m/z: 329 [M+1]+.

reactant | 1-((4-(Benzyloxy)phenyl)isocyanomethylsulfonyl)4-methylbenzene | 11.4 mmol, 4.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(S(=O)(=O)C1=CC=C(C=C1)C)[N+]#[C-] | C22H19NO3S
reactant | isonicotinaldehyde | 12.5 mmol, 1.34 g | C(C1=CC=NC=C1)=O | C6H5NO
reactant | K2CO3 | 22.8 mmol, 3.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 96 mL | CO | CH4O
solvent | DME | 30 mL | COCCOC | C4H10O2
product | 4-(4-(4-(Benzyloxy)phenyl)oxazol-5-yl)pyridine | 2.29 g, 84% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N=COC1C1=CC=NC=C1 | C21H16N2O2
